US05143920
3-Butyryl-4-(4-hydroxy-2-methylphenylamino)-8-methoxyquinoline (2.0 g, 5.7 mmol) was suspended in pyridine (25 ml), propionic anhydride (25 ml) added, and the mixture stirred for 17 hours at room temperature; the solid slowly dissolved to give a clear solution. Evaporation of the pyridine and recrystallisation from ethyl acetate/petroleum ether gave 3-butyryl-4-(4-propanoyloxy-2-methylphenylamino)-8-methoxy-quinoline (2.08 g, 90%), m.p. 163°-165°.

reactant | 3-Butyryl-4-(4-hydroxy-2-methylphenylamino)-8-methoxyquinoline | 5.7 mmol, 2.0 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)OC | C21H22N2O3
reactant | propionic anhydride | 25 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 3-butyryl-4-(4-propanoyloxy-2-methylphenylamino)-8-methoxy-quinoline | 2.08 g, 90% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)OC(CC)=O)C)OC | C24H26N2O4
